US08426411B2
A solution of ethyl 4-(cyclopropanesulfonamido)-2-ethylcyclopentanecarboxylate (0.630 g, 2.18 mmol, prepared using K from Preparation #Y.1 and cyclopropanesulfonyl chloride) in THF (14.5 mL) was cooled to about −78° C. and then LDA (1.8 M in THF/hexane, 3.63 mL, 6.53 mmol) was added dropwise to the reaction mixture over about 30 min. The reaction mixture was stirred at about −78° C. for about 50 min before a solution of N-fluoro-N-(phenylsulfonyl)benzenesulfonamide (2.06 g, 6.53 mmol) in THF (7.3 mL) was added dropwise over about 30 min. The reaction mixture was stirred at about −78° C. for about 1 h and then was warmed to ambient temperature and stirred for about 16 h. Saturated aqueous NH4Cl (100 mL) was added. The reaction mixture was partitioned with EtOAc (50 mL). The aqueous layer was further extracted with EtOAc (2×50 mL). The combined organic layers were concd under reduced pressure. The residue was purified by silica gel chromatography eluting with a gradient of 0-60% EtOAc in heptane to yield ethyl 4-(cyclopropanesulfonamido)-2-ethyl-1-fluorocyclopentanecarboxylate (0.41 g, 46%) as clear oil: LC/MS (Table 1, Method b) Rt=2.12 min; MS m/z: 306 (M−H)−.

reactant | ethyl 4-(cyclopropanesulfonamido)-2-ethylcyclopentanecarboxylate | 2.18 mmol, 0.630 g | C1(CC1)S(=O)(=O)NC1CC(C(C1)C(=O)OCC)CC | C13H23NO4S
reactant | LDA | 6.53 mmol, 1.8 M, 3.63 mL | [Li+].CC(C)[N-]C(C)C
reactant | N-fluoro-N-(phenylsulfonyl)benzenesulfonamide | 6.53 mmol, 2.06 g | FN(S(=O)(=O)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C12H10FNO4S2
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | THF | 14.5 mL | C1CCOC1 | C4H8O
solvent | THF | 7.3 mL | C1CCOC1 | C4H8O
product | ethyl 4-(cyclopropanesulfonamido)-2-ethyl-1-fluorocyclopentanecarboxylate | 0.41 g, 46% | C1(CC1)S(=O)(=O)NC1CC(C(C1)(C(=O)OCC)F)CC | C13H22FNO4S
